US04330292
Third step: Preparation of 2,4-diaminophenyl γ-N,N-dimethylaminopropyl ether trihydrochloride
57 g of 2-acetylamino-4-aminophenyl γN,N-dimethylaminopropyl ether in 112 ml of hydrochloric acid (d=1.19) are heated for 75 minutes in a boiling water bath. The reaction medium is cooled and 75 ml of acetone are then added. The expected product precipitates in the form of the trihydrochloride, which melts at 236° C. with decomposition.

reactant | 2-acetylamino-4-aminophenyl γN,N-dimethylaminopropyl ether | 57 g | CN(C)CCCOC1=C(C=C(C=C1)N)NC(C)=O | C13H21N3O2
reactant | acetone | 75 ml | CC(=O)C | C3H6O
reactant | hydrochloric acid | 112 ml | Cl | ClH
product | 2,4-diaminophenyl γ-N,N-dimethylaminopropyl ether trihydrochloride | Cl.Cl.Cl.CN(C)CCCOC1=C(C=C(C=C1)N)N | InChI=1S/C11H19N3O.3ClH/c1-14(2)6-3-7-15-11-5-4-9(12)8-10(11)13;;;/h4-5,8H,3,6-7,12-13H2,1-2H3;3*1H
